US06235731B1
4) Synthesis of N-[2-[(4-phenylpiperidino)methyl]benzyl]phthalimide
To a solution of 2.704 g (10.117 mM) of N-[2-(hydroxymethyl)benzyl]phthalimide and 1.69 ml (12.1 mM) of triethylamine in 50 ml of tetrahydrofuran was added 0.86 ml (11.1 mM) of methanesulfonyl chloride dropwise with ice-cooling and the mixture was stirred at 0° C. for 0.5 hour. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were combined and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was dissolved in 50 ml of N,N-dimethylformamide, followed by addition of 1.79 g (11.1 mM) of 4-phenylpiperidine and 2.80 g (20.2 mM) of potassium carbonate, and the mixture was stirred at 100° C. overnight. This reaction mixture was poured in water and extracted with 2 portions of ethyl acetate. The organic layers were combined and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=6/1 to 3/1) to provide the title compound.

reactant | N-[2-(hydroxymethyl)benzyl]phthalimide | 10.117 mM, 2.704 g | OCC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C16H13NO3
reactant | triethylamine | 12.1 mM, 1.69 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11.1 mM, 0.86 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-[2-[(4-phenylpiperidino)methyl]benzyl]phthalimide | C1(=CC=CC=C1)C1CCN(CC1)CC1=C(CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C27H26N2O2
